US05514691
4-Bromo-N-(4-bromo-3-methyl-5-isoxazolyl)benzenesulfonamide was prepared in the same manner as described in Example 5 from 5-amino-4-bromo-3-methylisoxazole and 4-bromobenzenesulfonyl chloride in 74% yield. Purification was achieved by recrystallization from ethyl acetate/hexanes to give a crystalline solid, m.p. 146°-149° C.

reactant | 5-amino-4-bromo-3-methylisoxazole | NC1=C(C(=NO1)C)Br | C4H5BrN2O
reactant | 4-bromobenzenesulfonyl chloride | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
product | 4-Bromo-N-(4-bromo-3-methyl-5-isoxazolyl)benzenesulfonamide | 74% yield | BrC1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=NO1)C)Br | C10H8Br2N2O3S
